US05756531
Preparation of 3-methoxypropanal-O-2-[Z-5-fluoro-2-methyl-1-(4-pyridyl)methylene-1H-inden-3-yl]ethyl oxime
The title compound is prepared by reaction of O-2-[Z-5-fluoro-2-methyl-1-(4-pyridyl)methylene-1H-inden-3-yl]ethyl hydroxylamine with 3-methoxypropanal by the method of Example 1.

reactant | O-2-[Z-5-fluoro-2-methyl-1-(4-pyridyl)methylene-1H-inden-3-yl]ethyl hydroxylamine | FC=1C=C2C(=C(/C(/C2=CC1)=C/C1=CC=NC=C1)C)CCON | C18H17FN2O
reactant | 3-methoxypropanal | COCCC=O | C4H8O2
product | 3-methoxypropanal-O-2-[Z-5-fluoro-2-methyl-1-(4-pyridyl)methylene-1H-inden-3-yl]ethyl oxime | FC=1C=C2C(=C(/C(/C2=CC1)=C/C1=CC=NC=C1)C)CCON=CCCOC | C22H23FN2O2
